US04824848
5-Ethyl-2-methyl-3-methylamino-7-(4-methylbenzyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A mixture of 5-ethyl-3-methylamino-7-(4-methylbenzyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (0.5 g, 1.6 mM), methyl iodide (0,46 g, 3.2 mM) and potassium carbonate (0,45 g, 3.2 mM) in DMF (8 ml) was stirred at 60° C. for 30 hours.

reactant | 5-ethyl-3-methylamino-7-(4-methylbenzyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 1.6 mM, 0.5 g | C(C)N1C(N(C=2C(C1=O)=C(NN2)NC)CC2=CC=C(C=C2)C)=O | C16H19N5O2
reactant | methyl iodide | 3.2 mM, 0,46 g | CI | CH3I
reactant | potassium carbonate | 3.2 mM, 0,45 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 5-Ethyl-2-methyl-3-methylamino-7-(4-methylbenzyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | C(C)N1C(N(C=2C(C1=O)=C(N(N2)C)NC)CC2=CC=C(C=C2)C)=O | C17H21N5O2
